US04005107
Ten parts of β-(2-oxocyclododecyl)propionic acid, 6 parts of thionyl chloride, and 35 parts of anhydrous benzene were placed into a reactor and allowed to stand at 0° C for 3 hours and further at room temperature overnight. Then, the excess amount of thionyl chloride and the benzene were distilled off under reduced pressure to give β-(2-oxocyclododecyl)propionic acid chloride. The acid chloride was dissolved in 25 parts of benzene. Into the resulting solution was added dropwise 35 parts of benzene solution containing 30 wt.% pyridine and the mixture was stirred for 6 hours. The produced crystals were filtered off. The filtrate was washed with dilute hydrochloric acid to remove excess pyridine, the organic layer was washed to remove the hydrochloric acid, and then dried with Glauber's salt. Thereafter the resulting solution was treated by the same method as in Example 1 to give 6.3 parts of 13-oxabicyclo(10.4.0)-hexadec-1(12)-en-14-one in 68.4% yield.

reactant | β-(2-oxocyclododecyl)propionic acid | O=C1C(CCCCCCCCCC1)CCC(=O)O | C15H26O3
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
solvent | benzene | C1=CC=CC=C1 | C6H6
product | β-(2-oxocyclododecyl)propionic acid chloride | O=C1C(CCCCCCCCCC1)CCC(=O)Cl | C15H25ClO2
